US07507736B2
4-[5-(1-Isopropyl-piperidin-4-yloxy)-6-methyl-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid ethyl ester
The title compound was synthesized in analogy to example 1, from 5-(1-isopropyl-piperidin-4-yloxy)-6-methyl-1H-indole-2-carboxylic acid hydrochloride and 1-ethoxycarbonylpiperazine to afford the title compound as a light-yellow foam (65%).

reactant | 5-(1-isopropyl-piperidin-4-yloxy)-6-methyl-1H-indole-2-carboxylic acid hydrochloride | Cl.C(C)(C)N1CCC(CC1)OC=1C=C2C=C(NC2=CC1C)C(=O)O
reactant | 1-ethoxycarbonylpiperazine | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
product | 4-[5-(1-Isopropyl-piperidin-4-yloxy)-6-methyl-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid ethyl ester | 65% | C(C)OC(=O)N1CCN(CC1)C(=O)C=1NC2=CC(=C(C=C2C1)OC1CCN(CC1)C(C)C)C | C25H36N4O4
